US06689780B1
Preparation of 4-[(4-t-Butylbenzoyl)amino]-N-(5-chloropyridin-2-yl)pyridine-3-carboxamide
To a stirring solution of 2-amino-5-chloropyridine (0.11 g, 0.85 mmol) in THF (12 mL) at 0° C. was added a 1 M solution of allylmagnesium bromide in diethyl ether (0.83 mL, 0.83 mmol). After 20 min, 2-[4-t-butylphenyl]-4H-6-aza-3,1-benzoxazin-4-one (0.115 g, 0.41 mmol) was added and the cold bath was removed. After 2 h, the mixture was diluted with ethyl acetate and washed three times with brine. The organic phase was dried (MgSO4), filtered and concentrated in vacuo. The solid was recrystallized from diethyl ether then washed several times with mixtures of ether/hexanes and dried to give 0.138 g (82%) of pale yellow needles.

reactant | 2-amino-5-chloropyridine | 0.85 mmol, 0.11 g | NC1=NC=C(C=C1)Cl | C5H5ClN2
reactant | allylmagnesium bromide | C(C=C)[Mg]Br
reactant | diethyl ether | 0.83 mmol, 0.83 mL | C(C)OCC | C4H10O
reactant | 2-[4-t-butylphenyl]-4H-6-aza-3,1-benzoxazin-4-one | 0.41 mmol, 0.115 g | C(C)(C)(C)C1=CC=C(C=C1)C1=NC2=C(C(O1)=O)C=NC=C2 | C17H16N2O2
solvent | THF | 12 mL | C1CCOC1 | C4H8O
product | 4-[(4-t-Butylbenzoyl)amino]-N-(5-chloropyridin-2-yl)pyridine-3-carboxamide | 0.138 g, 82% | C(C)(C)(C)C1=CC=C(C(=O)NC2=C(C=NC=C2)C(=O)NC2=NC=C(C=C2)Cl)C=C1 | C22H21ClN4O2
